US03966773
Preparation of 15-(tert-butoxy)-9-oxoprostanoic acid, ethyl ester
To a Grignard solution, prepared from 5.05 g. of magnesium and 65.8 g. of 3-(tert-butoxy)-1-iodooctane in 150 ml. of diethyl ether under nitrogen atmosphere, is added 4.0 g. of copper iodide-tri-n-butylphosphine complex followed by dropwise addition of 49 g. of 2-(6-carbethoxyhexyl)cyclopent-2-en-1-one [Hardegger et al., Helv. Chim. Acta 50, 2501(1967)] and the resulting mixture is stirred for 18 hours. Saturated ammonium chloride (110 ml.) is added followed by 100 ml. of water and 100 ml. of diethyl ether. Unreacted magnesium is removed by filtration. The ethereal layer is washed successively with aqueous sodium thiosulfate solution, ammonium chloride solution, and water, dried over magnesium sulfate and taken to dryness to give an oil. Distillation at 0.05 mm. (bath 100°-185°C. ) gives 45.4 g. of material containing unreacted starting material and 30 g. (85% yield based on non-recovered starting material; see below) of residue which contains the desired product. This material is chromatographed on silica gel. The product is eluted with diethyl ether to give 25.2 g. (71% based on recovered starting material) of a syrup; this material has no significant ultraviolet absorption; λmaxKBr 5.74, 7.20, 7,35, 8.35 μ; nrm 2H quartet δ 4.09 (OCH2 of ester), 1H broad singlet 3.57 (carbinolic proton), 5H overlapping multiplets 2.0- 2.4 (protons next to C=O). 3H triplet 1.22 (CH3 of ethyl), 9H singlet 1.17 (CH3 's to t-butyl) and 3H triplet 0.9 (terminal methyl); mass spectrum: m/e 424.

reactant | magnesium | [Mg] | Mg
reactant | 3-(tert-butoxy)-1-iodooctane | C(C)(C)(C)OC(CCI)CCCCC | C12H25IO
reactant | 2-(6-carbethoxyhexyl)cyclopent-2-en-1-one | C(=O)(OCC)CCCCCCC=1C(CCC1)=O | C14H22O3
reactant | ammonium chloride | 110 ml | [Cl-].[NH4+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 15-(tert-butoxy)-9-oxoprostanoic acid, ethyl ester | 85% yield | C(C)(C)(C)OC(CC[C@H]1CCC([C@@H]1CCCCCCC(=O)OCC)=O)CCCCC | C26H48O4
